data/mechanism_extracts/JACS/10.1021_jacs.1c07082.json
{"doi": "10.1021_jacs.1c07082", "journal": "JACS", "is_review": false, "rxn_class_summary": "Visible-light/photosensitizer-induced dearomative [5+2] (and divergent [2+2], interrupted [5+2], [5+4]) cycloaddition of indole/pyrrole-tethered vinylcyclopropanes (VCPs) via energy-transfer sensitization to triplet biradicals.", "mechanism_family": ["photoredox_combined", "biradical", "other"], "electrochemical_role": null, "key_intermediates": [{"name": "Triplet excited indole-tethered VCP (1a-T1) generated by energy transfer from Ir photosensitizer", "smiles": null, "role": "transient"}, {"name": "Triplet 1,4-biradical INT1a-T1/INT1b-T1 (C2-C/β-C bond formed, radicals at C3 of indoline and cyclopropane carbon)", "smiles": null, "role": "reactive"}, {"name": "Triplet 1,7-biradical INT2-E-T1 / INT2-Z-T1 (after cyclopropane ring-opening, E or Z olefin)", "smiles": null, "role": "reactive"}, {"name": "Open-shell singlet 1,4-biradical INT1a-OSS / INT1b-OSS (after ISC via MECPs)", "smiles": null, "role": "reactive"}, {"name": "Open-shell singlet 1,7-biradical INT2-Z-OSS (productive for [5+2] ring closure via TS3)", "smiles": null, "role": "reactive"}, {"name": "Open-shell singlet 1,7-biradical INT2-E-OSS (unreactive toward [5+2]; routed to interrupted [5+2] via zwitterion)", "smiles": null, "role": "off_pathway"}, {"name": "Zwitterionic intermediate (indolyl cation / malonate anion) formed from E-1,7-biradical with HFIP/H2O as proton shuttle", "smiles": null, "role": "transient"}, {"name": "Ir(dF(CF3)ppy)2(dtbbpy)PF6 triplet photosensitizer (3PS)", "smiles": null, "role": "transient"}], "electron_flow": "Visible-light excitation of the Ir photosensitizer to its triplet state transfers energy (Dexter, not SET) to the indole core of the substrate, generating a triplet indole; intramolecular C2–Cβ bond formation furnishes a triplet 1,4-biradical that undergoes cyclopropane ring-opening to a triplet 1,7-biradical, which crosses to the open-shell singlet via MECPs; the Z-1,7-biradical recombines to the [5+2] product, while the E-1,7-biradical (in HFIP) is protonated/deprotonated through a zwitterion to give the interrupted [5+2] product, and C3-substituted substrates close instead to [2+2] cyclobutane-fused indolines.", "rate_determining_step": "Intersystem crossing / ring-opening through TS2a-T1 or TS2b-T1 (~35–38 kcal/mol) connecting the triplet 1,4- to 1,7-biradicals; final C–C ring closure via TS3 (32.0 kcal/mol) on the OSS surface for [5+2].", "probe_reagents": [{"name": "2,5-dimethylhexa-2,4-diene (triplet quencher)", "smiles": "CC(C)=CC=C(C)C", "purpose": "intermediate_trap", "observation": "Reaction largely inhibited, supporting involvement of triplet intermediates."}, {"name": "Stern–Volmer quenching with substrate 1a vs indoline analogue 1a'", "smiles": null, "purpose": "redox_probe", "observation": "Excited PS is quenched by indole-tethered 1a but not by the indoline analogue 1a', consistent with energy transfer to the indole chromophore."}, {"name": "Cyclic voltammetry of 1a", "smiles": null, "purpose": "redox_probe", "observation": "Redox potentials of 1a do not match those of the photosensitizer, excluding a photoredox SET pathway."}, {"name": "HFIP-d2 (deuterated solvent)", "smiles": "OC(C(F)(F)F)C(F)(F)F", "purpose": "isotope_label", "observation": "63% D incorporation at the malonate α-position of 6a-d, supporting a zwitterionic intermediate with HFIP as proton shuttle."}, {"name": "HFIP/D2O (5:1)", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "42% D incorporation in 6b-d, consistent with proton transfer through a zwitterion."}, {"name": "Sc(OTf)3 additive (for 7-azaindole substrate)", "smiles": null, "purpose": "other", "observation": "Stoichiometric Sc(OTf)3 restores reasonable yield (73%) of 2ad by bidentate coordination to the 7-azaindole."}, {"name": "DFT calculations [(U)B3LYP-D3(BJ)/def2-TZVP//def2-SVP]", "smiles": null, "purpose": "other", "observation": "Map triplet and OSS biradical surfaces, MECPs, and TS energies; rationalize [5+2] vs [2+2] vs interrupted [5+2] divergence."}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_other", "DFT", "cyclic_voltammetry", "UV_vis", "isolation_of_intermediate", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "Mechanism is energy-transfer (Dexter) photosensitization, explicitly distinguished from photoredox SET (CV mismatch, Stern–Volmer with indoline analogue). Divergent pathway selection is governed by the fate of the open-shell singlet 1,7-biradical: Z-isomer → [5+2]; E-isomer → interrupted [5+2] via zwitterion (favored in HFIP); C3-substituted indoles → [2+2] (via INT1-OSS ring closure through TS4a/b); pyrrole-tethered VCPs switch to [5+4] cycloaddition with C5 of pyrrole. Direct [2+2] from INT1a/b-OSS is a competitive but thermodynamically disfavored pathway for indole substrates (PRO-2+2a/b only −5.6/−5.2 vs 2a at −21.2 kcal/mol)."}
